US08114636B2
10-Undecynoic acid succinimidyl ester
To a solution of 10-undecynoic acid (0.40 g, 2.2 mmol) in CH3CN (10 mL) was added O—(N-succinimidyl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (0.99 g, 3.29 mmol). After stirring for 2 min at RT, the reaction was quenched with 1% AcOH and diluted with CHCl3 (150 mL). The organic solution was then extracted with 1% AcOH (10 mL), rinsed with H2O (2×40 mL), then dried over Na2SO4. The solution was then decanted and concentrated. A quantitative yield was assumed and the material was taken on directly to the next step. TLC (10% MeOH/CHCl3) Rf=0.90, UV active.

reactant | 10-undecynoic acid | 2.2 mmol, 0.40 g | C(CCCCCCCCC#C)(=O)O | C11H18O2
reactant | O—(N-succinimidyl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 3.29 mmol, 0.99 g | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C(=O)CCC1=O
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | 10-Undecynoic acid succinimidyl ester | quantitative yield | C1(CCC(N1OC(CCCCCCCCC#C)=O)=O)=O | C15H21NO4
